US07842715B2
Preparation of N-(4-{[3-(dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)quino-line-2-carboxamide
A mixture of 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine (46 mg, 0.2 mmol), quinoline-2-carbonyl chloride (38 mg, 0.2 mg) and diisopropyl ethyl amine (0.1 mL, 0.6 mmol) in CH2Cl2 is stirred at room temperature for 5 h and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by reverse-phase semi-preparative HPLC, using the same HPLC conditions described in Example 1, to give the title compound as a white powder (10mg), identified by HPLC and mass spectral analyses. Retention Time, MS [366.2 m/e (M+H)].

reactant | 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine | 0.2 mmol, 46 mg | NC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H19N3O
reactant | quinoline-2-carbonyl chloride | 38 mg | N1=C(C=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
reactant | diisopropyl ethyl amine | 0.6 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-{[3-(dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)quino-line-2-carboxamide | 10mg | CN(C1CN(CC1)C(=O)C1=CC=C(C=C1)NC(=O)C1=NC2=CC=CC=C2C=C1)C | C23H24N4O2
